### PR TITLE
Feat : API about left regular rep and augmentation module

### PR DESCRIPTION
**Pull request by Whysoserioushah**

### CODE REVIEW

File: ClassFieldTheory/GroupCohomology/12_augmentationModule.lean [hunk 1]
```diff
@@ -214,8 +215,98 @@ lemma cohomology_aug_succ_iso' [Fintype G] {H : Type} [Group H] {φ : H →* G}
...
+lemma leftRegular.span_norm [Fintype G] : Submodule.span R {norm R G} = ⊤ := by
+  rw [norm, ← Set.image_singleton, ← Submodule.map_span, leftRegular.span_norm']
+  simp
+
+def H0trivial : H0 (trivial R G R) ≅ ModuleCat.of R R :=
+  LinearEquiv.toModuleIso <| LinearEquiv.symm <| (Submodule.topEquiv.symm ≪≫ₗ LinearEquiv.ofEq _ _
+  (by ext; simp) ≪≫ₗ (CategoryTheory.Iso.toLinearEquiv (H0Iso (trivial R G R))).symm)
+
+@[elementwise]
+lemma blah2 {ρ : Rep R G} (f : ρ ⟶ trivial R G R) :
```
[the remark this answers is not in the document]
Comment (Whysoserioushah) [reply ClassFieldTheory/GroupCohomology/12_augmentationModule.lean]: renamed!

File: ClassFieldTheory/GroupCohomology/12_augmentationModule.lean [hunk 2]
```diff
@@ -214,8 +215,98 @@ lemma cohomology_aug_succ_iso' [Fintype G] {H : Type} [Group H] {φ : H →* G}
...
+    groupCohomology.map (.id _) f 0 ≫ (H0trivial R G).hom = zeroι _ ≫ f.hom := by
+  ext x
+  simp only [H0trivial, of_ρ, LinearEquiv.trans_symm, LinearEquiv.symm_symm, LinearEquiv.ofEq_symm,
+    LinearEquiv.toModuleIso_hom, ModuleCat.hom_comp, ModuleCat.hom_ofHom, LinearMap.coe_comp,
+    LinearEquiv.coe_coe, Function.comp_apply, LinearEquiv.trans_apply, Submodule.topEquiv_apply,
+    LinearEquiv.coe_ofEq_apply]
+  rw [ModuleCat.Iso_hom, ← LinearMap.comp_apply, ← ModuleCat.hom_comp, map_id_comp_H0Iso_hom]
+  simp [zeroι]
+
+def H1_iso [Fintype G] :
```
[the remark this answers is not in the document]
Comment (Whysoserioushah) [reply ClassFieldTheory/GroupCohomology/12_augmentationModule.lean]: Done!

File: ClassFieldTheory/GroupCohomology/06_LeftRegular.lean [hunk 3]
```diff
@@ -145,4 +147,168 @@ by
...
+`res_norm' R G g φ` is the element `∑ h*g` in the `H`-invariants of the left regular
+representation `R[G]`, the sum being over `h : H`.
+-/
+abbrev res_norm' [Fintype G] {H : Type} [Group H] (g : G) (φ : H →* G)
+    (inj : φ.toFun.Injective) : (leftRegular R G ↓ φ).ρ.invariants :=
+  letI : Fintype H := Fintype.ofInjective _ inj
+  ⟨∑ h : H, leftRegular.of (φ h * g), fun h ↦ by
+    simpa [leftRegular.of] using show ∑ x : H, leftRegular.of _ = _ by
+      simpa [← mul_assoc, ← leftRegular.of_def] using Finset.sum_equiv (Equiv.mulLeft h) (by grind)
+        (by simp)⟩
```
Comment (kbuzzard) [inline ClassFieldTheory/GroupCohomology/06_LeftRegular.lean]: Oh you can't do it like this. If you're using `Fintype G` and not `Finite G` in a definition then this will basically demand that in any application, the `Fintype H` instance on `H` *must* be coming from `Fintype.ofInjective`, so if it's come from somewhere else then this will insert some horrible diamond into the system any time `res_norm'` is used. 

In [this commit](https://github.com/kbuzzard/ClassFieldTheory/pull/59/commits/fbcba9d8bb50a38b70b20c4aca70ff2225dd0f75) I fix this. I don't mind using `Fintype.ofInjective` in lemmas but you can't have it in definitions. Note that once you remove it, some definitions and lemmas don't even need injectivity of phi so I fixed those up too and got everything compiling. I also made G implicit in this definition because both g and phi give it to you. 

The resulting code is not only tidier, but the `erw` you were using now reports something sensible with `erw?`. Can you now figure out how to avoid the `erw`?

I've made a commit to this PR branch fixing this issue

File: ClassFieldTheory/GroupCohomology/12_augmentationModule.lean [hunk 4]
```diff
@@ -228,11 +264,33 @@ def H1_iso [Finite G] :
...
+  ext
+  simp only [Nat.card_eq_fintype_card, Set.image_singleton, Set.mem_singleton_iff, Nat.reduceAdd,
+    ShortComplex.SnakeInput.L₁'_X₂, HomologicalComplex.HomologySequence.snakeInput_L₀,
+    Functor.mapShortComplex_obj, ShortComplex.map_X₃, cochainsFunctor_obj,
+    HomologicalComplex.homologyFunctor_obj, ShortComplex.SnakeInput.L₁'_X₁, ShortComplex.map_X₂,
+    ShortComplex.SnakeInput.L₁'_f, ShortComplex.map_g, cochainsFunctor_map,
+    HomologicalComplex.homologyFunctor_map, Set.mem_range, Function.comp_apply]
+  conv => enter [2, 1, y]; erw [leftRegular.groupCoh_map_res_norm]
+  simpa [eq_comm] using by rfl
+
```
Comment (kbuzzard) [inline ClassFieldTheory/GroupCohomology/12_augmentationModule.lean]: We need to delete the comment below this, right?

File: ClassFieldTheory/GroupCohomology/06_LeftRegular.lean (hunk 3 above)
Comment (Whysoserioushah) [reply ClassFieldTheory/GroupCohomology/06_LeftRegular.lean]: I have resolved all `erw`s in file 06!

File: ClassFieldTheory/GroupCohomology/12_augmentationModule.lean (hunk 4 above)
Comment (kbuzzard) [reply ClassFieldTheory/GroupCohomology/12_augmentationModule.lean]: Oh I see, one is about G, the other is about H. I think I'll just move them to make this clearer
